US07442694B2
C) 4-Benzyl-1,4-diaza-bicyclo[3.2.1]octane
Diethyl azodicarboxylate (15.8 mL, 100 mmol) was slowly added to a solution of triphenylphosphine (26.2 g, 100 mmol) in THF (200 mL) while maintaining the reaction temperature below 20° C. After stirring this mixture for 30 min at RT, a solution of 2-(1-benzyl-piperazine-2-yl)-ethanol (11 g, 50 mmol) in THF (100 mL) was added while maintaining the reaction temperature below 20° C. The reaction mixture became turbid and the solvent was removed in vacuo after a period of 1 h. The residue was partitioned between water (20 mL) and ethyl acetate (50 mL) and the pH was adjusted to 2 with 6 N HCl. The phases were separated and the aqueous phase was extracted with EtOAc (50 mL) at pH 3.0, 4.5 and 10 (4×). The pH 10 extracts were combined, dried (Na2SO4), filtered and concentrated to an oil. The oil was triturated three times with hot hexanes (100 mL) to remove any remaining triphenylphosphine and triphenylphosphine oxide and the hexanes were decanted. The remaining oil was dried resulting in 7.5 g (74%) of the title compound: APCI MS m/z 203.2 (M+1).

reactant | Diethyl azodicarboxylate | 100 mmol, 15.8 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 100 mmol, 26.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-(1-benzyl-piperazine-2-yl)-ethanol | 50 mmol, 11 g | C(C1=CC=CC=C1)N1C(CNCC1)CCO | C13H20N2O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4-Benzyl-1,4-diaza-bicyclo[3.2.1]octane | 7.5 g, 74% | C(C1=CC=CC=C1)N1CCN2CCC1C2 | C13H18N2
